US07223788B2
1-(4-Cyclopentyloxyphenyl)-3-(4-{3-[methyl-((R)-5-oxo-pyrrolidin-2-ylmethyl)amino]pyrrolidin-1-yl}phenyl)urea
(R)-5-Bromomethylpyrrolidin-2-one (15 mg) was added to a suspension of 1-(4-cyclopentyloxyphenyl)-3-[4-(3-methyaminopyrrolidin-1-yl)phenyl]urea (30 mg) and potassium carbonate (20 mg) in DMF (3 ml). After 2 hours, the reaction mixture was filtered and concentrated, and the residue was purified by preparative HPLC. This resulted in the product with the molecular weight of 491.64 (C28H37N5O3); MS (ESI): 492 (M+H+) as hydrotrifluoroacetate.

reactant | (R)-5-Bromomethylpyrrolidin-2-one | 15 mg | BrC[C@H]1CCC(N1)=O | C5H8BrNO
reactant | 1-(4-cyclopentyloxyphenyl)-3-[4-(3-methyaminopyrrolidin-1-yl)phenyl]urea | 30 mg | C1(CCCC1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1CC(CC1)NC | C23H30N4O2
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(4-Cyclopentyloxyphenyl)-3-(4-{3-[methyl-((R)-5-oxo-pyrrolidin-2-ylmethyl)amino]pyrrolidin-1-yl}phenyl)urea | C1(CCCC1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1CC(CC1)N(C[C@@H]1NC(CC1)=O)C | C28H37N5O3
